US05770438
To a mixture of 2-acetylamino-5-chloro-α-(2-chlorophenyl)benzyl acetate (2.0 g), toluene (30 ml), 0.1M potassium dihydrogen phosphate (aq. sol., 20 ml) and 0.1M potassium monohydrogen phosphate (aq. sol., 20 ml) was added Lipase AP6 (Amano Pharmaceutical) (0.8 g) and the whole mixture was stirred vigorously at room temperature for 6 days. To this reaction mixture was added 1N-hydrochloric acid (50 ml) to stop the reaction, followed by extraction with ethyl-acetate (50 ml). The ethyl acetate layer was washed with aqueous sodium hydrogen carbonate solution and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:methylene chloride:ethyl acetate=4:1:1-1:1:1). The unreacted 2-acetylamino-5-chloro-α-(2-chlorophenyl)benzyl acetate (1.28 g) was recovered from the first fraction. Then, (S)-2-acetylamino-5-chloro-α-(2-chlorophenyl)benzyl alcohol (0.40 g) was obtained as oil from the second fraction. The optical purity of this product as determined by high performance liquid column chromatography using a chiral column [ULTRON ES-OVM (Shinwa Chemical Industries, Ltd.)] was 85% ee. This (S)-2-acetylamino-5-chloro-α-(2-chlorophenyl)benzyl alcohol of 86 (85)% ee was dissolved in hexane-diethyl ether and the crystals (47 mg) that had separated out were separated. The mother liquor was distilled under reduced pressure to provide (S)-2-acetylamino-5-chloro-α-(2-chlorophenyl)benzyl alcohol of higher purity as oil (0.31 g). Optical purity 96.4% ee.

reactant | 2-acetylamino-5-chloro-α-(2-chlorophenyl)benzyl acetate | 2.0 g | C(C)(=O)OC(C1=C(C=CC(=C1)Cl)NC(C)=O)C1=C(C=CC=C1)Cl | C17H15Cl2NO3
reactant | potassium dihydrogen phosphate | 0.1M, 20 ml | P(=O)(O)(O)[O-].[K+]
reactant | potassium monohydrogen phosphate | 0.1M, 20 ml | P(=O)(O)([O-])[O-].[K+].[K+]
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-2-acetylamino-5-chloro-α-(2-chlorophenyl)benzyl alcohol | 0.40 g | C(C)(=O)NC1=C([C@@H](C2=C(C=CC=C2)Cl)O)C=C(C=C1)Cl | C15H13Cl2NO2
